US05821246
Using an analogous procedure to that described in the first paragraph of the portion of Example 8 which is concerned with the preparation of starting materials, 3-chloro-4-fluoronitrobenzene was reacted with 2-thiazolethiol to give a precipitated solid which was partitioned between ethyl acetate and water. The organic phase was dried (MgSO4) and evaporated to give 2-chloro-4-nitrophenyl 2-thiazolyl sulphide in 26% yield.

reactant | 3-chloro-4-fluoronitrobenzene | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | 2-thiazolethiol | S1C(=NC=C1)S | C3H3NS2
product | 2-chloro-4-nitrophenyl 2-thiazolyl sulphide | 26% yield | S1C(=NC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C9H5ClN2O2S2
